US08580783B2
A mixture of 2-(2-benzo[1,3]dioxol-5-yl-acetylamino)-4-sulfamoyl-benzoic acid (0.10 g, 0.26 mmol), acetic acid (1.5 mL) and acetic anhydride (0.10 mL, 1.06 mmol) was stirred at reflux for 1 h. The reaction was diluted with ethyl acetate and washed with NaHCO3 satured solution, then with water and brine. The organic phase was dried over Na2SO4, filtered and evaporated to give the 2-benzo[1,3]dioxol-5-ylmethyl-4-oxo-4H-benzo[d][1,3]oxazine-7-sulfonic acid amide intermediate (0.032 g) as yellow oil. To a solution of 2-benzo[1,3]dioxol-5-ylmethyl-4-oxo-4H-benzo[d][1,3]oxazine-7-sulfonic acid amide (0.032 g, 0.09 mmol) in dry pyridine (1 mL) was added aminoguanidine hydrogencarbonate (0.013 g, 0.098 mmol) and the mixture was heated under microwave condition at 180° C. for 1.5 h. The solvent was then evaporated and the crude was taken up in methanol to give the title compound (0.013 g, 12% yield).

reactant | 2-(2-benzo[1,3]dioxol-5-yl-acetylamino)-4-sulfamoyl-benzoic acid | 0.26 mmol, 0.10 g | O1COC2=C1C=CC(=C2)CC(=O)NC2=C(C(=O)O)C=CC(=C2)S(N)(=O)=O | C16H14N2O7S
reactant | acetic acid | 1.5 mL | C(C)(=O)O | C2H4O2
reactant | acetic anhydride | 1.06 mmol, 0.10 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-benzo[1,3]dioxol-5-ylmethyl-4-oxo-4H-benzo[d][1,3]oxazine-7-sulfonic acid amide | 0.032 g | O1COC2=C1C=CC(=C2)CC=2OC(C1=C(N2)C=C(C=C1)S(=O)(=O)N)=O | C16H12N2O6S
